US06066639
A suspension of methyl 4-[2-(2-pivaloylamino-4-hydroxy-5,6,7,8-tetrahydropyrido[2,3-d]pyrimidin-6-yl)ethyl]-1-triisopropylsilylpyrrole-2-carboxylate (390.4 mg, 0.7 mmol) in 1N sodium hydroxide (1 mL) was heated under reflux until clear (about 4 hours). The mixture was cooled to room temperature, extracted with ethyl acetate, and then acidified with glacial acetic acid. The solid which formed was collected by filtration, washed with water, and dried in vacuo to give 4-[2-(2-amino-4-hydroxy-5,6,7,8-tetrahydropyrido[2,3-d]pyrimidin-6-yl)ethyl]pyrrole-2-carboxylic acid (199 mg, 94%), mp >260° C.: 1H NMR (DMSO-d6) δ 11.39 (s, 1H), 9.72 (br s, 1H), 6.73 (s, 1H), 6.55 (s, 1H), 6.25 (s, 1H), 5.93 (s, 2H), 3.16 (br d, 1H, J=9.5 Hz), 2.72 (m, 1H), 2.43 (m, 3H), 1.75 (m, 1H), 1.42-1.53 (m, 3H); 1H NMR (CD3OD) δ 6.69 (s, 1H), 6.63 (s, 1H), 3.31 (brd, 1H, J=12.1 Hz), 2.91 (dd, 1H, J=12.1, 9.2 Hz), 2.67 (dd, 1H, J=15.3, 4.4 Hz), 2.55 (m, 2H), 1.99 (dd, 1H, J=15.3, 9.4 Hz), 1.76 (m, 1H), 1.60 (m, 2H).

reactant | methyl 4-[2-(2-pivaloylamino-4-hydroxy-5,6,7,8-tetrahydropyrido[2,3-d]pyrimidin-6-yl)ethyl]-1-triisopropylsilylpyrrole-2-carboxylate | 0.7 mmol, 390.4 mg | C(C(C)(C)C)(=O)NC=1N=C(C2=C(N1)NCC(C2)CCC=2C=C(N(C2)[Si](C(C)C)(C(C)C)C(C)C)C(=O)OC)O | C29H47N5O4Si
solvent | sodium hydroxide | 1N, 1 mL | [OH-].[Na+]
product | 4-[2-(2-amino-4-hydroxy-5,6,7,8-tetrahydropyrido[2,3-d]pyrimidin-6-yl)ethyl]pyrrole-2-carboxylic acid | 199 mg, 94% | NC=1N=C(C2=C(N1)NCC(C2)CCC=2C=C(NC2)C(=O)O)O | C14H17N5O3
